US08808703B2
Step 2: (R)-2-(benzyloxycarbonylamino)-3-((R)-2,3-bis(octylcarbamoyloxy)propylthio)propanoic acid
A solution of (R)-tert-butyl 2-(benzyloxycarbonylamino)-3-((R)-2,3-bis(octylcarbamoyloxy)propylthio)propanoate in 30% TFA in DCM (0.3 M) was stirred at room temperature until complete deprotection of the tert-butyl group (4 hours). The reaction was diluted with DCM and concentrated with a stream of nitrogen. The reaction mixture was then diluted in MTBE and washed once with 1M citric acid (adjusted to pH3). The organic layer was dried over anhydrous Na2SO4 and concentrated en vaccuo. The resulting waxy solid was used without further purification.

reactant | (R)-tert-butyl 2-(benzyloxycarbonylamino)-3-((R)-2,3-bis(octylcarbamoyloxy)propylthio)propanoate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CSC[C@@H](COC(NCCCCCCCC)=O)OC(NCCCCCCCC)=O | C36H61N3O8S
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.3 M | C(Cl)Cl | CH2Cl2
product | (R)-2-(benzyloxycarbonylamino)-3-((R)-2,3-bis(octylcarbamoyloxy)propylthio)propanoic acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CSC[C@@H](COC(NCCCCCCCC)=O)OC(NCCCCCCCC)=O | C32H53N3O8S
